* Two_stage_amp test with subcircuit structure

.include "/home/pham/code/analog-ml/PPAAS/eval_engines/pdk/gf180/ngspice/design.ngspice"

.lib "/home/pham/code/analog-ml/PPAAS/eval_engines/pdk/gf180/ngspice/sm141064.ngspice" fs

.param wp1=100.0u  lp1=300n mp1=1
.param wn1=8.05u  ln1=300n mn1=1
.param wn3=34.73u ln3=300n mn3=1
.param wp3=7.24u  lp3=300n mp3=1
.param wn4=6.12u  ln4=300n mn4=1
.param wn5=27.11u ln5=300n mn5=1
.param cc=2.95p
.param ibias=30u
.param cload=10p
.param vddh=3.6
.param vcm=0.5*vddh

* for transient simulation
.PARAM val0 = 'vcm-0.2'
.PARAM val1 = 'vcm+0.2'
.PARAM GBW_ideal = 5e4
.PARAM STEP_TIME = '10/GBW_ideal'

*-----------------------------------------------------------
* Two Stage OPAMP Subcircuit Definition
* External pins: 
*   vinn  : Inverting input of differential pair
*   vinp  : Non-inverting input of differential pair
*   VDD   : Positive supply
*   VSS   : Ground/negative supply
*   vout  : Amplifier output
*-----------------------------------------------------------
.subckt Two_stage_amp VSS VDD vinn vinp vout

* --- First Stage: Differential Pair with Active Loads ---
xp1 net4 net4 VDD VDD pmos_3p3 w=wp1 l=lp1 m=mp1
xp2 net5 net4 VDD VDD pmos_3p3 w=wp1 l=lp1 m=mp1

xn1 net4 vinn net3 net3 nmos_3p3 w=wn1 l=ln1 m=mn1
xn2 net5 vinp net3 net3 nmos_3p3 w=wn1 l=ln1 m=mn1

* --- Biasing Network for the Differential Pair ---
xn3 net3 net7 VSS VSS nmos_3p3 w=wn3 l=ln3 m=mn3
xn4 net7 net7 VSS VSS nmos_3p3 w=wn4 l=ln4 m=mn4
ibias VDD net7 ibias

* --- Second Stage Amplifier ---
xp3 vout net5 VDD VDD pmos_3p3 w=wp3 l=lp3 m=mp3
xn5 vout net7 VSS VSS nmos_3p3 w=wn5 l=ln5 m=mn5

* --- Compensation ---
cc net5 vout {cc}

.ends Two_stage_amp

*-----------------------------------------------------------
* Testbench for Two_stage_amp
*-----------------------------------------------------------

* Power Supplies
VDD VDD 0 dc={vddh}
VSS VSS 0 dc=0

* Common-Mode Reference
Vcm cm 0 dc={vcm}

* Differential Input Sources 
* Here, we set the inputs around the common-mode voltage.
vin in 0 dc=0 ac=1.0
ein1 vinp cm in 0 0.5
ein2 vinn cm in 0 -0.5

* Load Capacitor at the Output
CL vo 0 {cload}

* Instantiate the Two Stage OPAMP Subcircuit
X0 VSS VDD vinn vinp vo Two_stage_amp

VVISR visr 0 pulse('val0' 'val1' 1u 1p 1p '1*STEP_TIME' 1)
X1 VSS VDD vo1 visr vo1 Two_stage_amp
CLoad6 vo1 0 500p

* .meas tran t_rise_edge when v(vo1)=1.7 rise=1
* .meas tran t_rise_ param='t_rise_edge - 1u'
* .meas tran t_rise param='t_rise_ * 1e6'
* .meas tran sr_rise param='0.2 / t_rise'
* .meas tran t_fall_edge when v(vo1)=1.7 fall=1
* .meas tran t_fall_ param='t_fall_edge-1u-STEP_TIME'
* .meas tran t_fall param='t_fall_*1e6'
* .meas tran sr_fall param='0.2/t_fall'

*-----------------------------------------------------------
* Simulation Control
*-----------------------------------------------------------
.control
  set temp=125
  ac dec 10 1 10G
  run
  set units=degrees
  set wr_vecnames
  option numdgt=7
  wrdata ac.csv v(vo)
  op
  wrdata dc.csv i(VDD)
  dc vin -0.001 0.001 1e-5
  wrdata dc_sweep.csv v(vo)
  tran 1u 4.01e-4
  wrdata tran.csv v(visr) v(vo1)
.endc
.end
